US04621084
A mixture of aluminum chloride (120 g) and 2-bromobutyryl bromide (48 g) in carbon disulfide (120 ml) was stirred for 30 minutes at ambient temperature. To the resultant mixture was added 3-methyl-2-benzothiazolinone (23 g) and the mixture was stirred for an hour at ambient temperature. The solvent was removed by evaporation at 60°-70° C. and stirred for an hour under the same condition. The reaction mixture was poured into ice-water (360 g) and extracted with chloroform (100 ml×2). The extract was washed with water and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on silica gel (300 g) by eluting with benzene. The fractions containing the desired compound were combined and the solvent was removed by distillation to give 5-(2-bromobutyryl)-3-methyl-2-benzothiazolinone (27.18 g).

reactant | aluminum chloride | 120 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromobutyryl bromide | 48 g | BrC(C(=O)Br)CC | C4H6Br2O
reactant | 3-methyl-2-benzothiazolinone | 23 g | CN1C(SC2=C1C=CC=C2)=O | C8H7NOS
solvent | carbon disulfide | 120 ml | C(=S)=S | CS2
product | 5-(2-bromobutyryl)-3-methyl-2-benzothiazolinone | 27.18 g | BrC(C(=O)C=1C=CC2=C(N(C(S2)=O)C)C1)CC | C12H12BrNO2S
